US05977029
6.4 g (20 mmol) of 6-tert-butyl-5-chloro-4-hydroxy-3-(2,4,6-trimethylphenyl)-2-pyrone (Ex. I-a-4) are initially charged in 50 ml of ethyl acetate. At 20° C., 2.02 g (20 mmol) of triethylamine are added, and at 0° C. a solution of 1.6 g (20 mmol) of acetyl chloride in 20 ml of ethyl acetate is added dropwise. The mixture is subsequently stirred at 20° C. for 20 h. Precipitated triethylamine hydrochloride is filtered off with suction and washed with ethyl acetate. The combined mother liquors are washed twice with 50 ml of half-concentrated sodium chloride solution each time, dried over magnesium sulphate and concentrated under reduced pressure. 7.2 g of crude product are obtained. Flash chromatography over silica gel 60 (35-70 μm) using toluene:acetone 30:1 as eluent yields 4.1 g (57% of theory) of 4-acetyloxy-6-tert-butyl-5-chloro-(2,4,6-trimethylphenyl)-2-pyrone of melting point 116-118° C.

reactant | 6-tert-butyl-5-chloro-4-hydroxy-3-(2,4,6-trimethylphenyl)-2-pyrone | 20 mmol, 6.4 g | C(C)(C)(C)C1=C(C(=C(C(O1)=O)C1=C(C=C(C=C1C)C)C)O)Cl | C18H21ClO3
reactant | triethylamine | 20 mmol, 2.02 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 20 mmol, 1.6 g | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
product | 4-acetyloxy-6-tert-butyl-5-chloro-(2,4,6-trimethylphenyl)-2-pyrone | 4.1 g, 57% | C(C)(=O)OC1=C(C(OC(=C1Cl)C(C)(C)C)=O)C1=C(C=C(C=C1C)C)C | C20H23ClO4
